US08895568B2
4-(2-Aminoethyloxy)-phenol. In a Parr bottle the product from Preparation 8, Step 1. (10.7 g, 44.7 mmol) was dissolved in absolute EtOH (100 mL). The solution was treated with 37% HCl (9 g) and 10% Pd/C (1.8 g). The reaction mixture was de-aerated, then charged with hydrogen (initial pressure: 50 pso H2) and shaken for 16 h. The mixture was filtered and the filtrate was concentrated in vacuo to afford 4-(2-aminoethoxy)-phenol hydrochloride salt (7.22 g, 85%) as a beige solid. This material was used without further purification.

reactant | 4-(2-Aminoethyloxy)-phenol | NCCOC1=CC=C(C=C1)O | C8H11NO2
reactant | HCl | 9 g | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 1.8 g | [Pd] | Pd
product | 4-(2-aminoethoxy)-phenol hydrochloride salt | 7.22 g, 85% | Cl.NCCOC1=CC=C(C=C1)O | InChI=1S/C8H11NO2.ClH/c9-5-6-11-8-3-1-7(10)2-4-8;/h1-4,10H,5-6,9H2;1H
